US05852011
4-[N,N-Bis(2-chloroethyl)amino]phenylacetic acid
Concentrated hydrochloric acid (10 ml) was added to 2.0 g (6.9 mmol) of methyl 4-[N,N-bis(2-chloroethyl)amino]phenylacetate, followed by stirring under heat for 1 hour over an oil bath controlled at 90° C. The reaction mixture was diluted with water and was then extracted three times with methylene chloride. As the raw material still remained, the reaction product was extracted with a 1N aqueous solution of sodium hydroxide. The water layer was acidified with hydrochloric acid and then extracted again with methylene chloride. The extract was dried and concentrated under reduced pressure. The residue so obtained was washed with n-hexane, whereby 1.61 g (5.83 mmol) of the title compound were obtained as white crystals (yield: 84.5%).

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methyl 4-[N,N-bis(2-chloroethyl)amino]phenylacetate | 6.9 mmol, 2.0 g | ClCCN(CCCl)C1=CC=C(C=C1)CC(=O)OC | C13H17Cl2NO2
solvent | water | O | H2O
product | 4-[N,N-Bis(2-chloroethyl)amino]phenylacetic acid | 5.83 mmol, 1.61 g | ClCCN(CCCl)C1=CC=C(C=C1)CC(=O)O | C12H15Cl2NO2
